US09416210B2
Chromium trioxide (25 g, 164 mmol) was dissolved into 300 mL of 1.5 M H2SO4 and the solution was cooled to 0° C. Compound 2-[2-(2-chloroethoxy)ethoxy]ethanol (8.3 g, 49 mmol) in 150 mL acetone was added into the Jones reagent dropwise and the reaction mixture was stirred at room temperature for 6 h. The acetone was removed by evaporation under vacuum and the aqueous phase was extracted with DCM (3×100 mL). After the combined organic phase was dried over MgSO4, the 2-[2-(2-chloroethoxy)ethoxy]acetic acid (6.3 g, 70% yield) was obtained by removed the solvent by rotary evaporation. IR: (cm−1) 1734 (C═O). 1H NMR (CDCl3, 300 MHz): δ 10.49 (b, 1H), 4.23 (s, 2H), 3.80 (t, J=5.8 Hz, 4H), 3.74 (t, J=5.7 Hz, 2H), 3.66 (t, J=5.8 Hz, 2H). 13C NMR (CDCl3, 75 MHz): δ 174.4, 71.4, 71.1, 70.4, 68.5, 42.6.

reactant | H2SO4 | 1.5 M, 300 mL | OS(=O)(=O)O | H2O4S
reactant | 2-[2-(2-chloroethoxy)ethoxy]ethanol | 49 mmol, 8.3 g | ClCCOCCOCCO | C6H13ClO3
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 150 mL | CC(=O)C | C3H6O
catalyst | Chromium trioxide | 164 mmol, 25 g | [O-2].[O-2].[O-2].[Cr+6]
product | 2-[2-(2-chloroethoxy)ethoxy]acetic acid | 6.3 g, 70% yield | ClCCOCCOCC(=O)O | C6H11ClO4
